US08426437B2
This compound is prepared according to synthesis 79 from 75 mg (0.33 mmol) of 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 75) and 37 μL (0.36 mmol) of pyridin-4-ylmethylamine. The precipitate that forms during the reaction is filtered then washed with dimethylformamide and diethyl ether to give 46 mg (44%) of N-(pyridin-4-ylmethyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide in the form of a white solid.

reactant | 4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.33 mmol, 75 mg | O=C1NC=2C=CC=CC2C2=C1NC=C2C(=O)O | C12H8N2O3
reactant | pyridin-4-ylmethylamine | 0.36 mmol, 37 μL | N1=CC=C(C=C1)CN | C6H8N2
product | N-(pyridin-4-ylmethyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxamide | 46 mg, 44% | N1=CC=C(C=C1)CNC(=O)C1=CNC=2C(NC=3C=CC=CC3C21)=O | C18H14N4O2
